US06005103
3-[[(Cyclohexylthio)pyridin-3-yl]methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.5 g, 7.98 mmol), ethanol (10 mL), pyridine-3-carboxaldehyde (0.86g, 7.98 mmol), cyclohexylthiol (1.86g, 7.98 mmol), piperidine (0.5 mL), acetic acid (0.5 mL). 1H NMR (400 MHz, DMSO-d6) δ1.25 (m, 5H), 1.53 (m, 1H), 1.67 (m, 2H), 1.92 (m, 2H), 2.69 (m, 1H), 5.39 (s, 1H), 6.72 (s, 1H), 7.33 (m, 1H), 7.53 (m, 3H), 7.73 (m, 2H), 7.97 (d, 1H), 8.39 (d, IH), 8.67 (d, 1H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 7.98 mmol, 1.5 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | pyridine-3-carboxaldehyde | 7.98 mmol, 0.86g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | cyclohexylthiol | 7.98 mmol, 1.86g | C1CCC(CC1)S | C6H12S
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[[(Cyclohexylthio)pyridin-3-yl]methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)SC1=NC=CC=C1CC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C23H23NO3S
